US07815950B2
To a suspension of 43.3 g of calcium ketomethioninate (M=334.42 g/mol, 98% purity, 21% water content in the dry mass) in 120 ml of H2O and 320 ml of diethyl ether, a 10% strength aqueous hydrochloric acid solution was added slowly dropwise at 0° C. with vigorous stirring until the pH was <2. After phase separation, the aqueous phase was washed three times, each with 120 ml of diethyl ether. Subsequently, the combined organic phases were dried over Na2SO4. After filtration of the desiccant, the diethyl ether was distilled off on a rotary evaporator at 30° C. and slight vacuum. The last solvent residues were removed in high vacuum. There remained 29.1 g of a slightly yellowish oil of free ketomethionine (yield=98%, M=148.18 g/mol).

reactant | calcium ketomethioninate | 43.3 g | O=N[C@@H](CCSC)C(=O)[O-].[Ca+2].O=N[C@@H](CCSC)C(=O)[O-]
reactant | hydrochloric acid | Cl | ClH
solvent | H2O | 120 ml | O | H2O
solvent | diethyl ether | 320 ml | C(C)OCC | C4H10O
product | ketomethionine | yield=98% | O=N[C@@H](CCSC)C(=O)O | C5H9NO3S
